US07414131B2
A. 7-Benzyl-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4(3H)-one
A mixture of 1-benzyl-3-ethoxycarbonyl-4-piperidone hydrochloride (0.285 g, 0.96 mmol), 2-chloroacetamidine hydrochloride (0.149 g, 1.16 mmol) and sodium methoxide (1.9 ml of a 25% wt/wt solution in methanol) and methanol (0.5 mL) was heated in a sealed tube in microwave (Emrys Optimizer model, Personal Chemistry) at 100° C. for 15 min. The mixture was allowed to cool to r.t. and concentrated under reduced pressure to leave a brown solid. The solid was taken up in water (30 mL) and extracted with a 3:1 mixture of chloroform:isopropanol (3×30 mL). The combined organic extracts were dried over sodium sulfate and concentrated to dryness to leave the title compound (0.196 g, 72%) which was used directly without further purification.

reactant | 1-benzyl-3-ethoxycarbonyl-4-piperidone hydrochloride | 0.96 mmol, 0.285 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC
reactant | 2-chloroacetamidine hydrochloride | 1.16 mmol, 0.149 g | Cl.ClCC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | methanol | 0.5 mL | CO | CH4O
solvent | water | 30 mL | O | H2O
product | 7-Benzyl-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4(3H)-one | 0.196 g, 72% | C(C1=CC=CC=C1)N1CC=2N=C(NC(C2CC1)=O)COC | C16H19N3O2
